US05223516
b) 2-(Bromomethyl)benzofuran
Triphenylphosphine (10.83 g., 41.3 mmol) was added to a solution of the title A product (4.08 g., 27.5 mmol) and carbon tetrabromide (13.93 g., 42 mmol) in dimethylformamide (85 mL) at 0° C. After stirring for 30 minutes, saturated sodium bicarbonate solution (50 mL) and water (50 mL) were added. The resulting mixture was partitioned between hexane and water. The organic layer was washed with water and brine, dried (MgSO4), and concentrated to a yellow liquid. This material was chromatographed on a 5×20 cm silica gel column using hexane as the mobile phase. The pure fractions were concentrated to afford 4.32 g. of (2-bromomethyl)benzofuran as a white crystalline solid.

reactant | Triphenylphosphine | 41.3 mmol, 10.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 42 mmol, 13.93 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | water | 50 mL | O | H2O
reactant | dimethylformamide | 85 mL | CN(C=O)C | C3H7NO
product | 2-(Bromomethyl)benzofuran | BrCC=1OC2=C(C1)C=CC=C2 | C9H7BrO
